US06673803B2
Dimethylcarbamyl chloride (38 μl, 0.42 mmol) was added to a solution of 4-(4-chloro-2-fluoroanilino)-6-methoxy-7-(2-methylaminoethoxy)quinazoline (150 mg, 0.4 mmol), (prepared as described for the starting material in Example 60), and triethylamine (61 μl, 0.44 mmol) in methylene chloride (4 ml). The mixture was stirred for 2.5 hours at ambient temperature, the resulting precipitate was collected by filtration and washed with ether. The solid was purified by column chromatography, eluting with methylene chloride/methanol (92/8). The purified product was dissolved in methylene chloride/methanol (1/1), 2.9M ethereal hydrogen chloride (1 ml) was added and the volatiles were removed by evaporation. The residue was triturated with ether and the solid product collected by filtration, washed with ether and dried under vacuum to give 4-(4-chloro-2-fluoroanilino)-6-methoxy-7-(2-(N′, N′, N-trimethylureido)ethoxy)quinazoline hydrochloride (80 mg, 41%).

reactant | Dimethylcarbamyl chloride | 0.42 mmol, 38 μl | CN(C(=O)Cl)C | C3H6ClNO
reactant | 4-(4-chloro-2-fluoroanilino)-6-methoxy-7-(2-methylaminoethoxy)quinazoline | 0.4 mmol, 150 mg | ClC1=CC(=C(NC2=NC=NC3=CC(=C(C=C23)OC)OCCNC)C=C1)F | C18H18ClFN4O2
reactant | triethylamine | 0.44 mmol, 61 μl | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 4 ml | C(Cl)Cl | CH2Cl2
product | 4-(4-chloro-2-fluoroanilino)-6-methoxy-7-(2-(N′, N′, N-trimethylureido)ethoxy)quinazoline hydrochloride | 80 mg, 41% | Cl.ClC1=CC(=C(NC2=NC=NC3=CC(=C(C=C23)OC)OCCN(C(=O)N(C)C)C)C=C1)F | InChI=1S/C21H23ClFN5O3.ClH/c1-27(2)21(29)28(3)7-8-31-19-11-17-14(10-18(19)30-4)20(25-12-24-17)26-16-6-5-13(22)9-15(16)23;/h5-6,9-12H,7-8H2,1-4H3,(H,24,25,26);1H
